US07601850B2
D. 2-(5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophen-2-yl-methoxy)-acetic acid
A solution of 2-[5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethoxy]-acetic acid methyl ester (0.33 g, 0.57 mmol), 1.0 M TBAF/THF (0.62 m L, 0.62 mmol) and THF (4 mL) is refluxed for 3 h. The mixture filtered through silica gel, washed with EtOAc and concentrated. The resulting residue is hydrolyzed using a procedure analogous to Example 47 to give the title compound (0.13 g, 0.28 mmol) in an overall yield of 49%. 1H NMR (CDC3), δ 0.71 (t, J=7.4 Hz, 6H), 1.02 (s, 9H), 2.01-2.10 (m, 4H), 2.19 (s, 3H), 2.20 (s, 3H), 2.21 (bs, 2H), 3.72 (dd, J=8.8, 2.9 Hz, 1H), 3.87 (t, J=8.8 Hz, 1H), 4.08-4.12 (m, 2H), 4.16 (s, 1H), 4.66 (s, 1H), 5.24 (s, 1H), 6.54 (d, J=3.4 Hz, 1H), 6.62 (d, J=8.3 Hz, 1H), 7.01-7.08 (m, 2H). LC/MS (m/z): calcd for C26H37O5S (M−H)−: 461.7; found: 461.2.

reactant | 2-[5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethoxy]-acetic acid methyl ester | 0.57 mmol, 0.33 g | COC(COCC=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)=O | C33H54O5SSi
reactant | TBAF THF | 0.62 mmol, 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-].C1CCOC1
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-(5-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-3-methyl-thiophen-2-yl-methoxy)-acetic acid | 0.28 mmol, 0.13 g, yield of 49% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C1=CC(=C(S1)COCC(=O)O)C | C26H38O5S
